US03966746
b. 4-Butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
To a solution of 5.08 g of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.02 mol) in 20 ml of benzene is added 2.92 g of n-butylamine (0.04 mol). This mixture is kept at room temperature for 3 days. After this time, the separated butylamine hydrochloride is filtered under suction and the filtrate is evaporated in vacuo to dryness. The residue, 4-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethylester, is recrystallized from hexane, m.p. 82°-83°. The total yield amounts to 5.3 g = 91.5% of theory.

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.02 mol, 5.08 g | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | n-butylamine | 0.04 mol, 2.92 g | C(CCC)N | C4H11N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-Butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)NCCCC | C15H22N4O2
